US05504189
N-Benzyloxycarbonyl-L-threonine phenacyl ester (8)
25.3 g (0.1 mol) of Z-L-threonine were suspended in 200 ml of EA, and 14 ml (0.1 mol) of triethylamine were added. While stirring, 19.0 g (0.1 mol) of solid ω-bromoacetophenone were added in one portion to result initially in a clear solution, which soon became cloudy. The mixture was left to stand for 2 d, diluted with 500 ml of EA and worked up as usual. The crystalline residue was dissolved in 420 ml of hot isopropanol, 300 ml of hot water were added, and the mixture was left to stand in the dark for 2 d. The long white needles which separated out were filtered off, washed and dried in air in the dark. Yield: 27.8 g (0.075 mol, 75%), melting point 129°-130° C., α!D25 =32.2° (c=2.04, EA)

reactant | Z-L-threonine | 0.1 mol, 25.3 g | C[C@H]([C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1)O | C12H15NO5
reactant | triethylamine | 0.1 mol, 14 ml | C(C)N(CC)CC | C6H15N
reactant | ω-bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | water | 300 ml | O | H2O
solvent | EA | 200 ml | CC(OCC)=O | C4H8O2
solvent | EA | 500 ml | CC(OCC)=O | C4H8O2
solvent | isopropanol | 420 ml | C(C)(C)O | C3H8O
product | N-Benzyloxycarbonyl-L-threonine phenacyl ester | C(C(=O)C1=CC=CC=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)[C@H](O)C)=O | C20H21NO6
